US06965048B2
A solution of 0.41 g (1.20 mmol) of trans-4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid in 12 mL of CH2Cl2 was treated at RT with 1 drop of DMF, followed by 0.11 mL (1.32 mmol, 1.1 eq) of oxalyl chloride within 5 min and stirring was continued for 90 min. The solution was evaporated and the residue was redissolved in 12 mL of CH2Cl2. At 0° C. this solution was added to a solution of 0.20 g (1.56 mmol, 1.3 eq) of 3-methylamino-propionic acid ethyl ester and 0.84 mL (6.00 mmol, 5 eq) of Et3N in 4 mL of CH2Cl2. The reaction mixture was kept at RT for 1.5 h, then the substance was partitioned between Et2O (×3)/aqueous 10% KHSO4. The organic phases were washed once with aqueous 10% NaCl, dried over Na2SO4 and evaporated to give 0.51 g (94%) of trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid ethyl ester, MS: 453 (MH+, 1Cl).

reactant | trans-4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarboxylic acid | 1.20 mmol, 0.41 g | ClC1=CC=C(OC(=O)N(CC[C@@H]2CC[C@H](CC2)C(=O)O)C)C=C1 | C17H22ClNO4
reactant | oxalyl chloride | 1.32 mmol, 0.11 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methylamino-propionic acid ethyl ester | 1.56 mmol, 0.20 g, 1.3 eq | C(C)OC(CCNC)=O | C6H13NO2
reactant | Et3N | 6.00 mmol, 0.84 mL, 5 eq | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid ethyl ester | 0.51 g, 94% | C(C)OC(CCN(C)C(=O)[C@@H]1CC[C@H](CC1)CCN(C)C(=O)OC1=CC=C(C=C1)Cl)=O | C23H33ClN2O5
